US07786114B2
[2-(5,6-Dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde oxime
The product is prepared by following the procedure described in example 34, stage (k), starting with 0.1 g of 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde oxime instead of the cyclopropyl-[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amine used in example 34, stage (k) and 1 cm3 of 5N potassium hydroxide. After purification by preparative LC/MS (acetonitrile/water/trifluoroacetic acid as eluents), 0.040 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde oxime is obtained with the following characteristics:

reactant | 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde oxime | 0.1 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC1=C(N=CC=C1C=NO)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C25H23N5O5S
reactant | potassium hydroxide | 5N, 1 cm3 | [OH-].[K+]
product | 2-(5,6-Dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde oxime | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC1=C(N=CC=C1C=NO)N2)OC | C18H17N5O3
